US08912180B2
To 3-{[trans-4-(dibenzylamino)cyclohexyl]oxy}propan-1-ol (110 mg) were added tosyl chloride (60 mg) and pyridine (51 μL) under ice-cooling, followed by stirring at room temperature for 1 hour. To the reaction mixture were added N,N-dimethylformamide (1.1 mL), potassium carbonate (43 mg), and pyrrolidine (26 μL), followed by stirring at room temperature overnight. The reaction mixture were added ethyl acetate and water, and the organic layer was extracted, washed with saturated brine, and then dried over anhydrous magnesium sulfate. Then, the solvent was evaporated under reduced pressure. The residue was purified by amino silica gel column chromatography (hexane:ethyl acetate-90:10-70:30) to obtain trans-N,N-dibenzyl-4-[3-(pyrrolidin-1-yl)propoxy]cyclohexanamine (70 mg).

reactant | 3-{[trans-4-(dibenzylamino)cyclohexyl]oxy}propan-1-ol | 110 mg | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)OCCCO)CC1=CC=CC=C1 | C23H31NO2
reactant | tosyl chloride | 60 mg | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | potassium carbonate | 43 mg | C([O-])([O-])=O.[K+].[K+]
reactant | pyrrolidine | 26 μL | N1CCCC1 | C4H9N
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 1.1 mL | CN(C=O)C | C3H7NO
solvent | pyridine | 51 μL | N1=CC=CC=C1 | C5H5N
product | trans-N,N-dibenzyl-4-[3-(pyrrolidin-1-yl)propoxy]cyclohexanamine | 70 mg | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)OCCCN1CCCC1)CC1=CC=CC=C1 | C27H38N2O
